US04931436
11-[[2-[2-[2-(Diethylamino)ethoxy]ethyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 4 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[2-[2-(diethylamino)ethoxy]ethyl]piperidine (b.p.0.4 mmHg 95°-99° C.) in a yield of 79% of theory. Colourless crystals, m.p. 134°-136° C. (acetonitrile).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[2-[2-(diethylamino)ethoxy]ethyl]piperidine | C(C)N(CCOCCC1NCCCC1)CC | C13H28N2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 11-[[2-[2-[2-(Diethylamino)ethoxy]ethyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 79% | C(C)N(CCOCCC1N(CCCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | C26H35N5O3
